US07390797B2
To a solution of 100 mg of 2,6-dihydrodibenzo[cd,g]indazol-6-one [CAS No. 129-56-6] in 0.6 ml concentrated sulfuric acid was added 78 mg of sodium azide [CAS No. 26628-22-8], followed by stirring at room temperature for 3 days. After adding ice, the reaction mixture was poured into a mixture solution of 100 ml of ethyl acetate and 10 ml of tetrahydrofuran and washed with saturated sodium hydrogen carbonate solution. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was dissolved in tetrahydrofuran, adsorbed by 3.5 g of silica gel and subjected to silica gel chromatography [Wako Gel C-200, 2 g]. The fractions of tetrahydrofuran-toluene [19:1 to 9:1] were concentrated, and the resulting powder was suspended in tetrahydrofuran-toluene. A powder was collected by filtration, and recrystallized from dimethylformamide-water, to give 27 mg of 6,7-dihydro-2H-benzo[6,7]azepino[5,4,3-cd]indazol-6-one as green needles.

reactant | 2,6-dihydrodibenzo[cd,g]indazol-6-one | 100 mg | N=1NC2=C3C(C(C4=C(C13)C=CC=C4)=O)=CC=C2 | C14H8N2O
reactant | sodium azide | 78 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-dihydro-2H-benzo[6,7]azepino[5,4,3-cd]indazol-6-one | 27 mg | N=1NC=2C=CC=C3C2C1C1=C(NC3=O)C=CC=C1 | C14H9N3O
